R1 ( net85 net4)  R=4.1E4
T2 ( net4 net4 vdd! vdd!)  pfet  L=4.08E-6 W=6.81E-6
T3 ( net23 net4 vdd! vdd!)  pfet  L=4.08E-6 W=6.81E-6
R4 (net103 net128) R=5.6E3
T5 (net73 net13 net13 0) nfet L=2.00E-6 W=0.14E-6
T6 (net34 net96 net96 0) pfet L=8.82E-6 W=7.79E-6
R7 ( net133 net116)  R=5.8E4
T8 ( net116 net134 0 0)  nfet  L=5.89E-6 W=2.05E-6
T9 ( net142 net134 0 0)  nfet  L=5.89E-6 W=2.05E-6
T10 ( net63 net116 net142 0)  nfet  L=5.89E-6 W=2.05E-6
C11 (net43 net113) C=1.8E-8
R12 (net69 net157) R=4.2E5
T13 (net131 net101 net101 0) pfet L=3.69E-6 W=3.58E-6
T14 (net8 0 0 0) nfet L=5.68E-6 W=5.55E-6
T15 (net161 net55 net55 0) nfet L=3.42E-6 W=3.26E-6
C16 (net131 net16) C=8.6E-13
T17 (net58 net67 net67 0) pfet L=9.12E-6 W=1.50E-6
T18 (net161 net95 net95 0) nfet L=8.49E-6 W=5.91E-6
R19 (net169 net166) R=1.6E2
T20 (net94 net2 net2 0) pfet L=2.85E-6 W=7.96E-6
T21 (0 net36 net36 0) nfet L=2.39E-6 W=6.23E-6
C22 (net123 net54) C=5.9E-10
C23 (vdd! net47) C=0.9E-13
T24 (net79 net33 net33 0) nfet L=6.80E-6 W=1.64E-6
T25 (net78 net146 net146 0) pfet L=9.09E-6 W=4.43E-6
C26 (net104 net64) C=5.4E-12
T27 (net101 net131 net131 0) pfet L=0.99E-6 W=9.77E-6
C28 (net150 net129) C=2.5E-6
T29 (net67 net113 net113 0) pfet L=3.06E-6 W=8.04E-6
T30 (net146 net8 net8 0) nfet L=1.81E-6 W=9.20E-6
T31 (net101 net60 net60 0) nfet L=3.08E-6 W=3.34E-6
C32 (net18 net98) C=1.1E-14
C33 (net9 net114) C=9.7E-14
C34 (net81 vdd!) C=0.2E-7
R35 (net44 net34) R=8.2E0
T36 (net79 net44 net44 0) nfet L=0.59E-6 W=5.28E-6
T37 (net84 net39 net39 0) nfet L=8.94E-6 W=7.50E-6
T38 (net111 net161 net161 0) pfet L=8.38E-6 W=3.32E-6
T39 (net71 net9 net9 0) pfet L=3.96E-6 W=7.94E-6
R40 (net165 net60) R=3.4E3
R41 (net144 0) R=9.2E1
C42 (net31 net93) C=4.4E-11
T43 (net75 net101 net101 0) pfet L=5.02E-6 W=8.56E-6
C44 (net158 net99) C=5.0E-14
T45 (vdd! net168 net168 0) pfet L=1.50E-6 W=8.98E-6
C46 (net104 0) C=9.3E-5
T47 (net94 net5 net5 0) pfet L=8.66E-6 W=2.47E-6
R48 (net64 net157) R=3.9E6
C49 (net157 vdd!) C=1.5E-9
T50 (net98 net22 net22 0) pfet L=4.99E-6 W=0.43E-6
T51 (net154 net96 net96 0) pfet L=9.98E-6 W=5.52E-6
R52 (net138 net162) R=2.6E5
C53 (net49 net122) C=5.7E-8
T54 (net111 net50 net50 0) pfet L=2.80E-6 W=5.14E-6
C55 (net47 net61) C=3.8E-11
C56 (net169 net114) C=4.6E-5
T57 (vdd! net95 net95 0) nfet L=4.10E-6 W=3.86E-6
T58 (net96 vdd! vdd! 0) pfet L=3.73E-6 W=7.66E-6
C59 (vdd! net120) C=9.5E-9
T60 (net7 net84 net84 0) nfet L=6.25E-6 W=7.08E-6
T61 (net115 net47 net47 0) nfet L=6.87E-6 W=1.83E-6
T62 (net69 0 0 0) nfet L=5.75E-6 W=9.48E-6
T63 (net118 net50 net50 0) nfet L=2.68E-6 W=8.19E-6
T64 (0 net38 net38 0) nfet L=5.28E-6 W=9.58E-6
T65 (net98 net69 net69 0) pfet L=9.06E-6 W=7.19E-6
T66 (net7 net29 net29 0) nfet L=5.84E-6 W=9.08E-6
R67 (net60 net56) R=7.5E3
C68 (net163 net50) C=1.0E-11
T69 (net61 net121 net121 0) nfet L=1.78E-6 W=5.50E-6
T70 (net38 net67 net67 0) nfet L=4.52E-6 W=8.91E-6
R71 (net121 net156) R=1.3E5
T72 (net122 net98 net98 0) nfet L=6.17E-6 W=3.20E-6
T73 (net43 net14 net14 0) nfet L=0.46E-6 W=0.28E-6
T74 (net123 net161 net161 0) nfet L=0.64E-6 W=5.01E-6
C75 (net63 net157) C=1.0E-14
T76 (net133 net121 net121 0) nfet L=1.37E-6 W=9.01E-6
T77 (net79 net112 net112 0) nfet L=7.37E-6 W=0.20E-6
R78 (net38 net143) R=3.8E1
T79 (net143 net114 net114 0) nfet L=3.45E-6 W=2.79E-6
T80 (net54 net83 net83 0) pfet L=6.38E-6 W=1.99E-6
T81 (net96 0 0 0) pfet L=2.30E-6 W=5.60E-6
T82 (net3 net140 net140 0) pfet L=5.82E-6 W=7.93E-6
T83 (net138 net11 net11 0) pfet L=5.59E-6 W=0.26E-6
T84 (net74 net64 net64 0) pfet L=4.23E-6 W=9.03E-6
C85 (net24 net3) C=4.7E-10
R86 (net145 net80) R=7.9E6
T87 (0 net123 net123 0) nfet L=6.71E-6 W=6.96E-6
R88 (net35 net12) R=2.2E0
C89 (net127 vdd!) C=2.6E-8
R90 (net98 net72) R=5.8E0
T91 (net45 net55 net55 0) nfet L=4.93E-6 W=5.52E-6
R92 (net21 net52) R=7.2E4
C93 (net92 net117) C=7.3E-12
R94 (0 net58) R=2.8E1
T95 (net132 net58 net58 0) pfet L=6.33E-6 W=3.93E-6
C96 (net35 net98) C=1.6E-8
T97 (net49 net70 net70 0) pfet L=1.80E-6 W=5.90E-6
T98 (net165 net25 net25 0) pfet L=5.98E-6 W=0.16E-6
T99 (net75 net155 net155 0) nfet L=0.77E-6 W=6.55E-6
R100 (net52 net18) R=2.5E1
C101 (net17 net12) C=4.5E-11
T102 (net82 net16 net16 0) pfet L=0.49E-6 W=0.37E-6
C103 (net29 net75) C=6.9E-10
C104 (net159 net10) C=5.6E-11
R105 (net167 vdd!) R=7.8E0
C106 (net129 net97) C=8.6E-8
T107 (net105 net75 net75 0) pfet L=2.94E-6 W=3.25E-6
T108 (net78 vdd! vdd! 0) pfet L=4.20E-6 W=1.99E-6
C109 (net81 vdd!) C=4.0E-5
C110 (net164 net81) C=2.7E-8
R111 (net45 net165) R=9.5E4
T112 (net10 vdd! vdd! 0) pfet L=9.02E-6 W=4.52E-6
C113 (net95 vdd!) C=1.1E-6
R114 (net37 net77) R=1.6E6
C115 (net123 net74) C=0.8E-14
T116 (vdd! net17 net17 0) pfet L=2.75E-6 W=5.49E-6
R117 (net73 net100) R=9.6E5
T118 (net44 net123 net123 0) nfet L=5.98E-6 W=6.63E-6
R119 (net59 net71) R=6.2E3
C120 (net111 vdd!) C=2.1E-7
C121 (net51 net95) C=8.7E-9
R122 (net13 net140) R=9.7E6
R123 (net95 net6) R=9.5E4
R124 (net66 net2) R=2.0E2
R125 (net120 net57) R=0.5E6
T126 (net140 net131 net131 0) pfet L=0.16E-6 W=7.04E-6
T127 (net24 net146 net146 0) pfet L=9.17E-6 W=0.64E-6
R128 (net90 net123) R=0.1E4
T129 (net35 net95 net95 0) pfet L=8.70E-6 W=1.09E-6
C130 (net90 net79) C=7.1E-6
R131 (net102 net86) R=6.1E2
T132 (net8 net6 net6 0) nfet L=6.89E-6 W=6.44E-6
R133 (net124 net67) R=1.9E4
R134 (net74 net166) R=0.9E3
R135 (net13 net119) R=2.6E2
R136 (net118 net126) R=6.3E3
T137 (net148 net1 net1 0) pfet L=4.63E-6 W=7.77E-6
C138 (net143 net98) C=9.1E-10
C139 (net150 net5) C=9.0E-12
C140 (net65 net132) C=0.4E-7
R141 (net28 0) R=3.5E0
T142 (net165 net52 net52 0) nfet L=1.58E-6 W=7.68E-6
T143 (net129 net130 net130 0) pfet L=8.46E-6 W=4.62E-6
T144 (net17 net32 net32 0) pfet L=4.06E-6 W=7.84E-6
T145 (net147 vdd! vdd! 0) nfet L=1.21E-6 W=0.68E-6
T146 (vdd! net91 net91 0) nfet L=0.17E-6 W=4.97E-6
R147 (net127 net59) R=1.4E6
C148 (net49 net15) C=3.5E-12
T149 (vdd! net130 net130 0) nfet L=6.02E-6 W=5.96E-6
T150 (net17 net137 net137 0) pfet L=3.44E-6 W=6.50E-6
R151 (net49 net24) R=2.6E1
T152 (net57 net144 net144 0) pfet L=8.63E-6 W=3.58E-6
R153 (net140 net76) R=8.2E0
R154 (vdd! net121) R=1.3E2
T155 (net105 net12 net12 0) nfet L=8.58E-6 W=8.99E-6
T156 (net2 vdd! vdd! 0) pfet L=5.44E-6 W=7.45E-6
C157 (net41 net28) C=6.2E-12
T158 (net120 net127 net127 0) nfet L=4.25E-6 W=0.41E-6
C159 (net42 net148) C=8.9E-10
R160 (net169 net139) R=1.1E5
R161 (net71 net23) R=5.2E0
T162 (net82 net74 net74 0) pfet L=8.82E-6 W=6.71E-6
T163 (net55 net92 net92 0) nfet L=9.23E-6 W=6.75E-6
T164 (net163 net71 net71 0) pfet L=6.18E-6 W=2.23E-6
R165 (net95 net160) R=7.6E4
T166 (net16 net141 net141 0) nfet L=4.68E-6 W=0.85E-6
T167 (net137 net13 net13 0) nfet L=2.08E-6 W=9.66E-6
C168 (net10 net152) C=4.2E-8
T169 (net41 net53 net53 0) pfet L=1.89E-6 W=6.60E-6
R170 (net150 net50) R=1.1E0
R171 (net62 net36) R=1.3E2
R172 (net9 net50) R=2.1E0
T173 (net74 vdd! vdd! 0) nfet L=8.39E-6 W=2.98E-6
R174 (vdd! net62) R=2.9E4
T175 (net12 0 0 0) nfet L=0.24E-6 W=4.05E-6
R176 (net79 net168) R=9.8E4
T177 (vdd! vdd! vdd! 0) nfet L=2.35E-6 W=1.70E-6
C178 (net112 net92) C=2.5E-11
T179 (net3 net155 net155 0) pfet L=7.04E-6 W=8.33E-6
T180 (vdd! net14 net14 0) nfet L=7.17E-6 W=3.12E-6
C181 (net92 net120) C=9.7E-11
C182 (net68 vdd!) C=0.8E-8
R183 (net59 net94) R=6.1E6
C184 (net85 net52) C=1.9E-10
T185 (net85 net162 net162 0) pfet L=7.93E-6 W=0.28E-6
T186 (net67 net136 net136 0) pfet L=0.14E-6 W=1.81E-6
T187 (net61 net144 net144 0) pfet L=5.96E-6 W=9.71E-6
T188 (0 net108 net108 0) nfet L=4.31E-6 W=4.74E-6
T189 (0 net99 net99 0) nfet L=1.82E-6 W=9.80E-6
T190 (net14 net93 net93 0) pfet L=4.75E-6 W=0.12E-6
T191 (net63 net93 net93 0) nfet L=4.05E-6 W=8.70E-6
C192 (net26 net38) C=4.0E-10
T193 (net118 net20 net20 0) pfet L=2.73E-6 W=7.82E-6
T194 (net7 net85 net85 0) pfet L=7.30E-6 W=8.03E-6
T195 (net120 0 0 0) nfet L=4.78E-6 W=9.55E-6
T196 (net138 net12 net12 0) nfet L=3.19E-6 W=5.09E-6
T197 (net64 net100 net100 0) nfet L=1.11E-6 W=8.50E-6
T198 (net38 net105 net105 0) pfet L=6.82E-6 W=8.88E-6
R199 (net87 vdd!) R=8.6E0
C200 (net150 net169) C=7.8E-10
C201 (net3 net28) C=2.7E-7
C202 (net35 net48) C=1.3E-5
C203 (net41 net99) C=4.8E-9
T204 (net118 net20 net20 0) nfet L=6.78E-6 W=1.36E-6
T205 (net24 net100 net100 0) pfet L=7.72E-6 W=7.43E-6
T206 (net37 net96 net96 0) nfet L=4.78E-6 W=6.60E-6
C207 (0 net32) C=5.1E-9
R208 (net11 net148) R=0.4E4
R209 (net105 net118) R=1.7E1
R210 (net23 net18) R=5.4E0
C211 (vdd! net95) C=8.2E-10
T212 (net113 net159 net159 0) pfet L=4.60E-6 W=5.01E-6
T213 (net53 net12 net12 0) pfet L=3.13E-6 W=8.88E-6
T214 (net3 net155 net155 0) pfet L=1.77E-6 W=3.59E-6
C215 (net96 net68) C=3.5E-10
R216 (net143 net54) R=1.6E5
T217 (net96 net23 net23 0) nfet L=0.66E-6 W=6.76E-6
T218 (net23 net8 net8 0) pfet L=2.09E-6 W=4.30E-6
T219 (net100 net149 net149 0) pfet L=1.99E-6 W=9.74E-6
R220 (net18 net27) R=9.5E3
T221 (net25 net81 net81 0) nfet L=4.73E-6 W=9.02E-6
T222 (net102 net117 net117 0) nfet L=0.75E-6 W=3.67E-6
R223 (net160 net88) R=8.6E4
T224 (net158 net92 net92 0) pfet L=5.42E-6 W=7.20E-6
R225 (net18 net62) R=1.4E6
R226 (net43 net91) R=0.8E0
T227 (net126 net31 net31 0) nfet L=4.36E-6 W=1.01E-6
T228 (net87 net21 net21 0) nfet L=6.20E-6 W=7.28E-6
C229 (net6 net163) C=7.6E-7
R230 (vdd! net43) R=0.8E2
T231 (net2 net169 net169 0) pfet L=3.44E-6 W=4.13E-6
C232 (net62 net159) C=3.9E-13
T233 (net137 net75 net75 0) pfet L=8.42E-6 W=5.19E-6
C234 (net123 net26) C=6.3E-11
R235 (net38 net159) R=8.0E2
R236 (net61 net60) R=1.8E3
C237 (net151 net150) C=7.0E-9
R238 (net138 net73) R=2.3E0
C239 (net86 net156) C=1.8E-12
T240 (0 net11 net11 0) nfet L=9.15E-6 W=2.19E-6
C241 (net16 net60) C=2.9E-13
R242 (net110 net139) R=7.5E6
R243 (net162 net103) R=8.4E4
C244 (net69 net90) C=9.8E-9
T245 (net61 net95 net95 0) pfet L=7.01E-6 W=5.05E-6
T246 (net132 net25 net25 0) pfet L=7.20E-6 W=6.22E-6
T247 (net100 net109 net109 0) nfet L=8.72E-6 W=2.61E-6
T248 (net94 net104 net104 0) nfet L=2.06E-6 W=4.85E-6
T249 (0 vdd! vdd! 0) pfet L=2.38E-6 W=8.03E-6
T250 (vdd! net39 net39 0) pfet L=3.43E-6 W=3.68E-6
C251 (net162 net36) C=1.2E-14
T252 (net168 net67 net67 0) nfet L=1.99E-6 W=1.10E-6
T253 (net133 net5 net5 0) pfet L=0.33E-6 W=2.84E-6
T254 (net121 net36 net36 0) nfet L=5.62E-6 W=1.74E-6
C255 (net126 0) C=8.9E-5
T256 (vdd! net64 net64 0) nfet L=1.78E-6 W=6.24E-6
C257 (net53 0) C=1.6E-8
C258 (net8 net108) C=2.9E-9
T259 (net79 net79 net79 0) nfet L=6.28E-6 W=1.13E-6
C260 (net79 net92) C=2.8E-12
T261 (net47 net9 net9 0) nfet L=4.24E-6 W=8.68E-6
R262 (net147 net39) R=2.7E5
T263 (net31 net94 net94 0) nfet L=4.50E-6 W=9.19E-6
T264 (0 net167 net167 0) nfet L=4.43E-6 W=0.93E-6
T265 (net39 net29 net29 0) nfet L=0.40E-6 W=8.00E-6
T266 (net85 net82 net82 0) nfet L=7.63E-6 W=5.28E-6
C267 (net79 net10) C=7.4E-9
T268 (net136 net147 net147 0) pfet L=0.74E-6 W=6.67E-6
T269 (net140 net78 net78 0) nfet L=2.17E-6 W=4.47E-6
C270 (net154 net121) C=6.0E-14
T271 (vdd! net76 net76 0) pfet L=5.41E-6 W=4.71E-6
T272 (net58 0 0 0) pfet L=1.08E-6 W=6.88E-6
T273 (net144 net127 net127 0) pfet L=6.05E-6 W=1.08E-6
C274 (net129 net123) C=1.5E-14
R275 (vdd! net120) R=9.0E0
T276 (net112 net166 net166 0) nfet L=1.21E-6 W=7.43E-6
R277 (vdd! net62) R=9.9E1
C278 (net6 net110) C=8.4E-5
T279 (net15 net23 net23 0) pfet L=3.57E-6 W=2.52E-6
T280 (net144 net111 net111 0) nfet L=7.74E-6 W=2.41E-6
C281 (net115 net92) C=9.4E-8
R282 (net75 0) R=9.3E3
T283 (net129 net78 net78 0) nfet L=9.58E-6 W=3.26E-6
C284 (net155 net1) C=7.5E-13
T285 (net85 net159 net159 0) nfet L=3.10E-6 W=9.05E-6
T286 (net7 net120 net120 0) pfet L=1.95E-6 W=0.44E-6
R287 (net87 net150) R=3.7E6
T288 (net133 net23 net23 0) nfet L=7.24E-6 W=7.90E-6
R289 (net38 net59) R=6.2E4
R290 (net92 net12) R=9.1E1
C291 (net161 net58) C=3.0E-10
T292 (net71 net148 net148 0) nfet L=4.88E-6 W=7.47E-6
T293 (vdd! net62 net62 0) pfet L=2.95E-6 W=1.78E-6
T294 (net80 net78 net78 0) nfet L=0.80E-6 W=4.44E-6
T295 (0 net62 net62 0) pfet L=2.75E-6 W=5.41E-6
T296 (0 net150 net150 0) nfet L=6.48E-6 W=0.56E-6
R297 (net79 net125) R=7.9E2
R298 (net137 net75) R=0.7E1
R299 (vdd! net48) R=8.3E2
T300 (net70 net94 net94 0) pfet L=3.46E-6 W=4.78E-6
C301 (net124 net101) C=5.7E-11
R302 (net130 net60) R=6.3E6
C303 (net88 net54) C=6.8E-9
C304 (net72 0) C=2.7E-12
R305 (vdd! net158) R=3.9E3
T306 (net17 vdd! vdd! 0) pfet L=7.10E-6 W=5.91E-6

