R1 (net56 net23) R=7.8E3
R2 ( net53 net55)  R=4.5E0
T3 ( net55 net55 net43 0)  nfet  L=1.62E-6 W=9.61E-6
T4 ( net43 net29 0 0)  nfet  L=1.62E-6 W=9.61E-6
T5 ( net29 net29 0 0)  nfet  L=1.62E-6 W=9.61E-6
T6 ( net65 net55 net29 0)  nfet  L=1.62E-6 W=9.61E-6
T7 (vdd! net67 net67 0) pfet L=4.24E-6 W=7.47E-6
R8 ( net71 net9)  R=7.7E0
T9 ( net9 net9 0 0)  nfet  L=3.17E-6 W=9.69E-6
T10 ( net25 net9 0 0)  nfet  L=3.17E-6 W=9.69E-6
T11 (net17 net23 net23 0) nfet L=9.85E-6 W=5.01E-6
T12 (net17 net13 net13 0) pfet L=1.91E-6 W=2.48E-6
R13 (net26 net17) R=8.0E5
C14 (0 net40) C=9.4E-14
R15 (net70 net66) R=5.3E0
C16 (net45 net37) C=3.5E-8
T17 (net57 net3 net3 0) pfet L=2.00E-6 W=4.86E-6
R18 (net24 net63) R=2.0E1
T19 (net30 0 0 0) nfet L=8.00E-6 W=6.50E-6
R20 (net53 net27) R=5.1E2
C21 (net23 net22) C=9.5E-11
R22 (vdd! net60) R=4.4E4
T23 (net26 net40 net40 0) nfet L=1.74E-6 W=1.81E-6
T24 (net8 net33 net33 0) nfet L=3.00E-6 W=7.22E-6
T25 (net40 net32 net32 0) nfet L=0.71E-6 W=7.52E-6
T26 (net37 vdd! vdd! 0) pfet L=2.79E-6 W=3.00E-6
T27 (net6 net16 net16 0) nfet L=0.28E-6 W=7.57E-6
R28 (net27 net1) R=4.6E3
T29 (net58 net71 net71 0) pfet L=1.51E-6 W=7.36E-6
R30 (net71 net33) R=2.8E3
R31 (net39 net16) R=2.1E2
T32 (net14 net23 net23 0) nfet L=9.35E-6 W=2.50E-6
T33 (net39 net25 net25 0) pfet L=7.37E-6 W=1.77E-6
T34 (net33 net57 net57 0) pfet L=4.57E-6 W=9.83E-6
R35 (net31 net1) R=0.8E1
T36 (net45 net3 net3 0) nfet L=0.90E-6 W=7.04E-6
T37 (net22 net21 net21 0) pfet L=2.53E-6 W=1.39E-6
T38 (net48 net20 net20 0) nfet L=8.76E-6 W=9.48E-6
T39 (net48 net30 net30 0) nfet L=1.75E-6 W=7.28E-6
T40 (net65 net69 net69 0) nfet L=9.83E-6 W=0.46E-6
R41 (net13 net23) R=3.4E1
T42 (net14 net41 net41 0) pfet L=3.26E-6 W=5.03E-6
T43 (net22 vdd! vdd! 0) nfet L=8.70E-6 W=4.52E-6
T44 (net17 net53 net53 0) pfet L=2.51E-6 W=2.53E-6
C45 (net71 net70) C=2.2E-14
R46 (net17 net65) R=2.4E0
T47 (net67 net34 net34 0) nfet L=0.75E-6 W=1.25E-6
T48 (net31 net50 net50 0) nfet L=9.22E-6 W=9.40E-6
R49 (net68 net54) R=3.2E2
T50 (net42 net16 net16 0) nfet L=3.77E-6 W=1.48E-6
C51 (vdd! net5) C=8.3E-7
T52 (net52 net65 net65 0) pfet L=8.36E-6 W=4.71E-6
R53 (net3 net51) R=0.7E6
T54 (net16 net70 net70 0) nfet L=3.31E-6 W=4.74E-6
C55 (net28 net32) C=9.6E-6
R56 (net37 net32) R=3.4E6
T57 (net22 net63 net63 0) pfet L=4.04E-6 W=0.50E-6
T58 (net30 0 0 0) nfet L=4.94E-6 W=7.85E-6
T59 (net60 net42 net42 0) nfet L=2.33E-6 W=0.44E-6
T60 (net51 net46 net46 0) pfet L=3.23E-6 W=5.63E-6
T61 (net17 net49 net49 0) nfet L=4.71E-6 W=3.43E-6
T62 (net23 vdd! vdd! 0) pfet L=3.18E-6 W=3.24E-6
T63 (net25 net16 net16 0) nfet L=0.55E-6 W=3.65E-6
T64 (net33 net25 net25 0) nfet L=8.20E-6 W=9.83E-6
T65 (net69 net16 net16 0) pfet L=9.28E-6 W=9.78E-6
C66 (net68 net38) C=3.1E-9
T67 (net1 vdd! vdd! 0) pfet L=2.20E-6 W=1.74E-6
R68 (net30 net22) R=6.5E6
C69 (net25 net58) C=5.4E-6
T70 (net63 net53 net53 0) pfet L=9.10E-6 W=8.50E-6
T71 (net39 net37 net37 0) pfet L=5.23E-6 W=7.46E-6
T72 (net66 net44 net44 0) pfet L=2.34E-6 W=3.89E-6
C73 (net20 net37) C=3.1E-10
R74 (net52 net23) R=0.2E6
R75 (net21 net54) R=5.1E5
T76 (net14 net63 net63 0) nfet L=7.89E-6 W=7.37E-6
T77 (net17 net71 net71 0) pfet L=3.67E-6 W=2.66E-6
T78 (net41 net67 net67 0) nfet L=7.58E-6 W=8.28E-6
T79 (net59 net4 net4 0) pfet L=9.50E-6 W=5.65E-6
C80 (net34 net10) C=4.4E-13
T81 (net36 net60 net60 0) nfet L=8.43E-6 W=0.89E-6
T82 (net26 net26 net26 0) nfet L=5.01E-6 W=8.62E-6
R83 (net2 net34) R=5.0E1
T84 (net44 net15 net15 0) nfet L=1.54E-6 W=3.21E-6
T85 (0 net6 net6 0) pfet L=9.14E-6 W=5.52E-6
C86 (net26 net53) C=6.1E-12
C87 (net44 0) C=9.0E-10
R88 (net27 net33) R=3.9E2
C89 (net65 net23) C=8.3E-9
R90 (net28 net54) R=5.8E1
C91 (net16 net45) C=5.7E-7
R92 (net40 net3) R=8.8E1

